US06653307B2
Ethyl 3-ethoxy-2-(2-fluoro-5-(4-morpholinylmethyl)benzoyl)-2-propenoate [A.2, W=morpholinylmethyl].
A mixture of ethyl 3-(2-fluoro-5-(4-morpholinylmethyl)phenyl)-3-oxopropanoate (Preparation 3, 20.0 g), triethylorthoformate (21.5 ML) and acetic anhydride (21.4 mL) is heated at 150° C. in a round-bottom flask equipped with a Dean-Stark trap and condenser. After 4 h, the remaining acetic acid and triethylorthoforrnate are distilled off by heating the mixture to 100° C. at 0.2 Torr for 1 hr, leaving 22.9 g of the title compound as an amber oil. The crude product is used as is in the subsequent transformations. Physical characteristics: 1H NMR (300 MHz, DMSO-d6) δ 7.85, 7.60-7.45, 7.23, 4.36-4.17, 4.09-3.99, 3.56, 3.49, 2.34, 1.29-1.11, 1.08-0.99; MS (ESI+) m/z 366 (M+H)+.

reactant | ethyl 3-(2-fluoro-5-(4-morpholinylmethyl)phenyl)-3-oxopropanoate | 20.0 g | FC1=C(C=C(C=C1)CN1CCOCC1)C(CC(=O)OCC)=O | C16H20FNO4
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 21.4 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 3-ethoxy-2-(2-fluoro-5-(4-morpholinylmethyl)benzoyl)-2-propenoate | 22.9 g | C(C)OC=C(C(=O)OCC)C(C1=C(C=CC(=C1)CN1CCOCC1)F)=O | C19H24FNO5
